US05686424
Using the procedure described previously, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (230 mg, 0.78 mmol, 1.0 eq), L-isoleucine pyridin-4-ylmethylamide (266 mg, 1.5 mmol) and dichloromethane (2 mL), was treated with triethylamine (660 uL, 6.0 eq), and a 50% solution of 1-n-propylphosphonic acid cyclic anhydride in dichloromethane (1.0 mL, 2.0 eq), to provide 180 mg (46%) of L-isoleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] pyridin-4-ylmethylamide.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.78 mmol, 230 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | L-isoleucine pyridin-4-ylmethylamide | 1.5 mmol, 266 mg | N1=CC=C(C=C1)CNC([C@@H](N)[C@@H](C)CC)=O | C12H19N3O
reactant | triethylamine | 660 uL, 6.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL, 2.0 eq | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] pyridin-4-ylmethylamide | 180 mg, 46% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC3=CC=NC=C3)CCC2)=O | C29H42N4O3
